US09233946B2
Pyridine (200 μL, 2.48 mmol) was added to a solution of methyl 3-aminobenzoate (188 mg, 1.24 mmol) and 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride (349 mg, 1.24 mmol) in MeCN (10 mL). The reaction mixture was stirred at room temperature over night. After removal of the solvents, the residue was dissolved in EtOAc and water. The phases were separated, and the organic solution was washed with 1M HCl twice, water twice and brine then dried (MgSO4). The crude product, obtained after evaporation of the solvents, was crystallized from MeOH (ca 5 mL). The solid product was triturated using heptane, giving the intermediate methyl 3-{[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate as an off-white solid (432 mg, 88%). 1H NMR (500 MHz, CDCl3) δ ppm 2.46 (s, 3 H) 2.45 (s, 3 H) 6.91 (s, 1 H) 7.37 (t, J=7.81 Hz, 1 H) 7.43-7.47 (m, 2 H) 7.72 (d, J=1.96 Hz, 1 H) 7.72 (d, J=8.76 Hz, 1 H) 7.76 (t, J=1.83 Hz, 1 H) 7.85 (dt, J=7.81, 1.34 Hz, 1 H). MS (ESI+) 396 m/z [M+H]+.

reactant | Pyridine | 2.48 mmol, 200 μL | N1=CC=CC=C1 | C5H5N
reactant | methyl 3-aminobenzoate | 1.24 mmol, 188 mg | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | 5-chloro-3-methyl-benzothiophene-2-sulfonyl chloride | 1.24 mmol, 349 mg | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | methyl 3-{[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate | 432 mg, 88% | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)OC)C=CC2)C)C1 | C17H14ClNO4S2
